US07223766B2
To a solution of 4-chloro-2-(5-chloro-2-fluorophenyl)-6,7-dihydrofuro[3,2-d]pyrimidine (320 mg, 1.13 mmol, 1 eq) in dioxane (5 ml) was added Pd(OAc)2 (13 mg, 0.06 mmol, 0.05 eq) followed by BINAP (53 mg, 0.08 mmol, 0.075 eq), 4-aminonicotinic acid ethyl ester (206 mg, 1.24 mmol, 1.1 eq) and Cs2CO3 (478 mg, 1.46 mmol, 1.5 eq). The reaction mixture was heated to 80° C. for 15 h. The reaction mixture was cooled to rt and filtered through Celite® and the crude material was purified by flash column chromatography (0-5%MeOH in CHCl3) to afford 4-[2-(5-chloro-2-fluorophenyl)-6,7-dihydrofuro[3,2-d]pyrimidin-4-ylamino]-nicotinic acid ethyl ester (100 mg, 21%) as a white solid.

reactant | 4-chloro-2-(5-chloro-2-fluorophenyl)-6,7-dihydrofuro[3,2-d]pyrimidine | 1.13 mmol, 320 mg, 1 eq | ClC=1C2=C(N=C(N1)C1=C(C=CC(=C1)Cl)F)CCO2 | C12H7Cl2FN2O
reactant | BINAP | 0.08 mmol, 53 mg, 0.075 eq | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-aminonicotinic acid ethyl ester | 1.24 mmol, 206 mg, 1.1 eq | C(C)OC(C1=CN=CC=C1N)=O | C8H10N2O2
reactant | Cs2CO3 | 1.46 mmol, 478 mg, 1.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.06 mmol, 13 mg, 0.05 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-[2-(5-chloro-2-fluorophenyl)-6,7-dihydrofuro[3,2-d]pyrimidin-4-ylamino]-nicotinic acid ethyl ester | 100 mg, 21% | C(C)OC(C1=CN=CC=C1NC=1C2=C(N=C(N1)C1=C(C=CC(=C1)Cl)F)CCO2)=O | C20H16ClFN4O3
